US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-morpholin-4-yl-pyridin-3-yl)-cyclopropyl]-amide (22)
A solution of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide (35 mg, 0.077 mmol) and morpholine (68 μL, 0.77 mmol) in DMSO (1 mL) is heated in a pressure tube at 160° C. After 40 hours, the mixture is cooled to room temperature, diluted with EtOAc (50 mL) and washed with saturated aqueous ammonium chloride (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated. The resulting solid is purified by silica gel chromatography eluting with a gradient of 0-5% methanol in dichloromethane to give a solid, which is triturated with ether (5 mL), filtered and dried to afford the title compound.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide | 0.077 mmol, 35 mg | BrC1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C21H15BrFN5O
reactant | morpholine | 0.77 mmol, 68 μL | N1CCOCC1 | C4H9NO
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-morpholin-4-yl-pyridin-3-yl)-cyclopropyl]-amide | N1(CCOCC1)C1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C25H23FN6O2
